US07473784B2
6. 2-Bromo-4-fluorobenzo[d]thiazole-6-carbaldehyde
A mixture of (2-bromo-4-fluorobenzo[d]thiazol-6-yl)methanol (0.269 g, 1.03 mmol) and manganese (IV) oxide (activated, 85%, 1.47 g, 14.4 mmol) in THF (15 mL) was stirred at rt for 16 hr. Solid material was removed by filtration through Celite® 545, and the filtrate was concentrated under vacuum. The residue was diluted with AcOEt, washed with brine, and dried over anhydrous MgSO4. Evaporation of solvent under vacuum gave the title compound (0.136 g, 61% yield) as a white solid.

reactant | (2-bromo-4-fluorobenzo[d]thiazol-6-yl)methanol | 1.03 mmol, 0.269 g | BrC=1SC2=C(N1)C(=CC(=C2)CO)F | C8H5BrFNOS
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | manganese (IV) oxide | 14.4 mmol, 1.47 g | [O-2].[Mn+4].[O-2]
product | 2-Bromo-4-fluorobenzo[d]thiazole-6-carbaldehyde | 0.136 g, 61% yield | BrC=1SC2=C(N1)C(=CC(=C2)C=O)F | C8H3BrFNOS
